US05841004
In 50 ml of ethanol was suspended 20.8 g (69.7 mmol) of 3-chloro-α,β-dibromoethylbenzene. To the suspension was added 100 ml of an ethanol solution containing 5.8 g (103.4 mmol) of potassium hydroxide at room temperature, and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was poured into 150 ml of ice-water and extracted with 300 ml of diethyl ether. The extract was dried over anhydrous sodium sulfate and concentrated to give 15.0 g (purity: 99%) of 3-chloro-α-bromostyrene. 1H-NMR (CDC13, 8): 5.82 (1H, d), 6.14 (1H, d), 7.26-7.33 (2H, m), 7.45-7.49 (1H, m), 7.57-7.58 (1H, m)

reactant | 3-chloro-α,β-dibromoethylbenzene | 69.7 mmol, 20.8 g | ClC=1C=C(C=CC1)C(CBr)Br | C8H7Br2Cl
reactant | potassium hydroxide | 103.4 mmol, 5.8 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-chloro-α-bromostyrene | 15.0 g | ClC=1C=C(C(=C)Br)C=CC1 | C8H6BrCl
